US07115645B2
3-[2-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]propanoic acid methyl ester
35 mg of 3-[2-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]propanoic acid was dissolved in 0.4 ml of N,N-dimethylformamide, mixed with 28 mg of cesium carbonate and 50 μl of methyl iodide and stirred for 30 hours. Then, it was diluted with water and extracted three times with ethyl acetate. The combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was chromatographed on silica gel.

reactant | 3-[2-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]propanoic acid | 35 mg | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCOCCC(=O)O)C2=CC=CC=C2 | C24H22N2O4
reactant | cesium carbonate | 28 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 50 μl | CI | CH3I
solvent | N,N-dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[2-[(1,2-Diphenyl-1H-benzimidazol-6-yl)oxy]ethoxy]propanoic acid methyl ester | COC(CCOCCOC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C25H24N2O4
